US04332800
A powder (0.2 g) of 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) was dissolved in water (0.8 ml) and dropped acetone (1.6 ml) thereto under stirring at ambient temperature. After few minutes, the stirring was stopped and the solution was stood for 1.5 hours at ambient temperature to crystallize. The resulting colorless needles were filtered, washed with 90% aqueous acetone (1 ml×2) and acetone (1 ml×3) and dried for 9 hours under reduced pressure to give colorless needles of 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate acetone adduct monohydrate (syn isomer) (120 mg), mp >155° C. (dec.).

reactant | 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate | 0.2 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C1=NSC(=N1)N | C19H19N7O5S2
reactant | acetone | 1.6 ml | CC(=O)C | C3H6O
solvent | water | 0.8 ml | O | H2O
product | 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate acetone | 120 mg | CC(=O)C.C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C1=NSC(=N1)N | InChI=1S/C19H19N7O5S2.C3H6O/c1-2-31-23-11(14-22-19(20)33-24-14)15(27)21-12-16(28)26-13(18(29)30)10(9-32-17(12)26)8-25-6-4-3-5-7-25;1-3(2)4/h3-7,12,17H,2,8-9H2,1H3,(H3-,20,21,22,24,27,29,30);1-2H3/t12?,17-;/m1./s1
